US08703782B2
Phosphoric acid mono-{3-(1H-indol-3-yl)-4-[2-(4-methyl-piperazin-1-yl)-quinazolin-4-yl]-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl}ester
Under argon, phosphoric acid di-tert-butyl ester chloromethyl ester (1.24 g, 4.81 mmol) and Cs2CO3 (3.14 g, 9.63 mmol) were added to a solution of 3-(1H-indol-3-yl)-4-[2-(4-methyl-piperazin-1-yl)-quinazolin-4-yl]-pyrrole-2,5-dione (2.0 g, 4.01 mmol) in acetone (40 mL). The reaction mixture was stirred under argon for 16 h at 50° C. followed by concentration at reduced pressure. The residue was partitioned between EtOAc and a saturated aqueous NH4Cl solution, the layers were separated and the organic layer was dried over anhydrous Na2SO4. Concentration at reduced pressure afforded the crude product as a red foam. The crude product was purified by reverse phase Gilson HPLC as described above. After concentration of the desired fractions in vacuo, a red solid was obtained. UPLC-MS indicated that partial cleavage of the t-butyl ester groups had occurred. The thus obtained mixture (280 mg) was dissolved in a mixture of 1,2-dichloroethane (4 mL) and acetonitrile (2.0 mL). TFA (145 mg, 98 μL, 1.27 mmol) was added and the resulting solution was stirred for 3 h under argon at 0° C. when UPLC-MS indicated that full conversion of the starting material had occurred. The reaction mixture was diluted with 1,2-dichloroethane (4.0 mL) and concentrated at reduced pressure to afford the crude product as a red solid. The crude reaction product was dissolved in MeOH (3 mL) and slowly concentrated at reduced pressure until crystallization started to occur. The crystals were filtered off and washed with Et2O and pentane to afford the title compound as an orange solid. 1H-NMR (400 MHz, DMSO-d6): 12.27 (s, 1H), 8.21 (s, 1H), 7.72-7.66 (m, 2H), 7.58 (d, 1H), 7.40 (d, 1H), 7.14 (t, 1H), 7.02 (t, 1H), 6.65 (t, 1H), 6.24 (d, 1H), 5.34 (d, 2H), 4.14-3.72 (bs, 4H), 3.00-2.73 (bs, 4H), 2.60 (s, 3H). 31P-NMR (162 MHz, DMSO-d6): −2.7. LCMS: [M]+=548.6, Rt(1)=1.72 min., Rt(2)=0.73 min.

reactant | phosphoric acid di-tert-butyl ester chloromethyl ester | 4.81 mmol, 1.24 g | ClCOP(OC(C)(C)C)(OC(C)(C)C)=O | C9H20ClO4P
reactant | Cs2CO3 | 9.63 mmol, 3.14 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-(1H-indol-3-yl)-4-[2-(4-methyl-piperazin-1-yl)-quinazolin-4-yl]-pyrrole-2,5-dione | 4.01 mmol, 2.0 g | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=NC(=NC2=CC=CC=C12)N1CCN(CC1)C)=O)=O | C25H22N6O2
reactant | TFA | 1.27 mmol, 98 μL, 145 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
solvent | 1,2-dichloroethane | 4.0 mL | ClCCCl | C2H4Cl2
solvent | MeOH | 3 mL | CO | CH4O
product | Phosphoric acid mono-{3-(1H-indol-3-yl)-4-[2-(4-methyl-piperazin-1-yl)-quinazolin-4-yl]-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl}ester | N1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=NC(=NC2=CC=CC=C12)N1CCN(CC1)C)=O)COP(O)(O)=O)=O | C26H25N6O6P
